US05880135
N-Naphth-1-yl-N-propylthiourea (Compound 30)
3.9 g of benzoyl chloride and 2.1 g of ammonium thiocyanate are introduced into anhydrous acetone in a three-necked flask under argon and maintained between 0° and 5° C., the reaction mixture is left stirring for 15 minutes and then 3.9 g of N-naphth-1-yl-N-propylamine, dissolved in acetone, are added dropwise. The reaction mixture is then heated at reflux for 1 hour and evaporated to dryness and the residue is taken up in concentrated hydrochloric acid, heated at reflux for 3 hours and allowed to return to room temperature. The organic products are extracted with diethyl ether and then successively basification is carried out with 33% sodium hydroxide, extraction is carried out with ethyl acetate, the organic phase is evaporated to dryness and the residue is purified on a column of silica gel eluted with a 75/25 (v/v) hexane/ethyl acetate mixture, to obtain 3.2 g of white crystals melting at 170°-171° C. 1H NMR (CDCl3): 0.86 (t, J=7.3, 3H, --CH2 --CH3), 1.68 (m, 2H, --CH2 --CH3), 3.72 (m, 2H, --CH2 --CH2 --CH3), 5.58 (m, 2H, --NH2), 7.37 (d, J=7.3, 1H, H2), 7.23 (m, 2H, H3 and H8), 7.75-7.80 (m, 2H, H6 and H7), 7.85-7.95 (m, 2H, H4 and H5).

reactant | benzoyl chloride | 3.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 2.1 g | [S-]C#N.[NH4+]
reactant | N-naphth-1-yl-N-propylamine | 3.9 g | C1(=CC=CC2=CC=CC=C12)NCCC | C13H15N
solvent | acetone | CC(=O)C | C3H6O
product | N-Naphth-1-yl-N-propylthiourea | 3.2 g | C1(=CC=CC2=CC=CC=C12)N(C(=S)N)CCC | C14H16N2S
